US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-isopropylnitrobenzene
To a solution of 1-t-butoxycarbonyl-4-hydroxypiperidine (2.96 g), 2-isopropyl-4-nitrophenol (2.66 g) and triphenylphosphine (5.00 g) in dichloromethane (80 ml) was added diethyl azodicarboxylate (3.0 ml) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using dichloromethane as an eluant to give the desired compound (4.07 g, yield 76%) as a brown solid.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 2.96 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-isopropyl-4-nitrophenol | 2.66 g | C(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])O | C9H11NO3
reactant | triphenylphosphine | 5.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.0 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-isopropylnitrobenzene | 4.07 g, yield 76% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(C)C | C19H28N2O5
